US07153878B2
(4-Hydroxy-2-propylphenoxy)acetic acid ethyl ester
A solution of (4-benzyloxy-2-propylphenoxy)acetic acid ethyl ester (0.60 g, 1.83 mmol) in THF (15 mL) is treated with 5% Pd/C (75 mg) and hydrogen (60 psi) at ambient temperature for 24 h. The mixture is filtered and concentrated. The crude product is purified by radial chromatography using 15% ethyl acetate in hexanes to give a tan solid (0.25 g, 57%). 1H NMR (400 MHz, CDCl3) δ 6.66 (d, J=2.9 Hz, 1H), 6.62 (d, J=8.8 Hz, 1H), 6.57 (dd, J=8.8, 2.9 Hz, 1H), 4.56 (s, 1H), 4.40 (s, 1H), 4.25 (q, J=7.2 Hz, 2H), 2.61 (t, J=7.6 Hz, 2H), 1.63 (q, J=7.5 Hz, 2H), 1.29 (t, J=7.1 Hz, 3H), 0.95 (t, J=7.3 Hz, 3H); MS (FIA) m/e 239 (M+1).

reactant | (4-benzyloxy-2-propylphenoxy)acetic acid ethyl ester | 1.83 mmol, 0.60 g | C(C)OC(COC1=C(C=C(C=C1)OCC1=CC=CC=C1)CCC)=O | C20H24O4
reactant | hydrogen | [H][H] | H2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | (4-Hydroxy-2-propylphenoxy)acetic acid ethyl ester | 0.25 g, 57% | C(C)OC(COC1=C(C=C(C=C1)O)CCC)=O | C13H18O4
